US04490369
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane-dihydrochloride
1.1 gm (5.0 mmols) of 7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one were suspended in 20 ml of dimethyl sulfoxide, and the suspension was mixed with 0.6 gm (5.3 mmols) of potassium tert. butylate while stirring. After 10 minutes, the solution was mixed with 2.0 gm (7.4 mmols) of 1-chloro-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane; the mixture was stirred for one hour at 50° C. and then poured into water; the aqueous mixture was extracted with ethyl acetate, and the organic phase was evaporated in vacuo. The residue was purified on silica gel with methylene chloride +10% of methanol as the eluant, and the dihydrochloride was precipitated from acetone with ethereal hydrochloric acid.

reactant | 7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | 5.0 mmols, 1.1 gm | COC1=CC2=C(CC(NCC2)=O)C=C1OC | C12H15NO3
reactant | 1-chloro-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane | 7.4 mmols, 2.0 gm | ClCCCN(CCC1=CC(=C(C=C1)OC)OC)C | C14H22ClNO2
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane-dihydrochloride | Cl.Cl.COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC(=C(C=C2)OC)OC)C)=O)C=C1OC | InChI=1S/C26H36N2O5.2ClH/c1-27(13-9-19-7-8-22(30-2)23(15-19)31-3)11-6-12-28-14-10-20-16-24(32-4)25(33-5)17-21(20)18-26(28)29;;/h7-8,15-17H,6,9-14,18H2,1-5H3;2*1H
